US04709081
18.07 g. (0.192 mole) of phenol, 8.42 g. (0.15 mole) of potassium hydroxide and 20 cm3 of xylene are weighed together. The water is azeotropically distilled with stirring and boiling then the xylene is also distilled. To the reaction mixture 1.0 g. of copper(I) chloride and 1.0 g. of activated copper are added and in oil bath of 160° C. 18.07 g. (0.1 mole) of 3-chlorobenzyl acetate are dropped during 70 minutes then stirred at the same temperature for four hours. After cooling 25 cm3. of toluene are added to the reaction mixture, then the reaction mixture is filtered off and washed with 25 cm3. of toluene. The filtrate is washed with a mixture of 30 cm3. 15% sodium chloride solution and 2 cm3. 40% sodium hydroxide solution. The organic phase is evaporated and the residue is distilled in vacuo. 17.68 g. of 3-phenoxybenzyl acetate are obtained. Boiling point 138°-144° C./40 Pa, nD20 : 1.562, yield 73%.

reactant | phenol | 0.192 mole | C1(=CC=CC=C1)O | C6H6O
reactant | potassium hydroxide | 0.15 mole | [OH-].[K+]
reactant | xylene | 20 cm3 | C=1(C(=CC=CC1)C)C | C8H10
reactant | 3-chlorobenzyl acetate | 0.1 mole | C(C)(=O)OCC1=CC(=CC=C1)Cl | C9H9ClO2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-phenoxybenzyl acetate | yield 73% | C(C)(=O)OCC1=CC(=CC=C1)OC1=CC=CC=C1 | C15H14O3
